US08242124B2
2-Cyano-N-phenylacetamide (820 mg) in THF (20 mL) was treated with LDA (4.4 mL, 1.8M solution in heptane/THF/ethylbenzene) at −78° C. for 1 h, before (E)-tert-butyl-3-((dimethylamino)methylene)-4-oxopiperidine-1-carboxylate (1 g) was added. The reaction mixture was allowed to warm to room temperature, and quenched with saturated NaHCO3 aqueous solution (20 mL). The aqueous solution was extracted with EtOAc (3×20 mL) and the combined organic layer was dried over MgSO4. Concentration under vacuum provided a residue which was purified by HPLC to afford tert-butyl 3-cyano-2-oxo-1-phenyl-1,2,7,8-tetrahydro-1,6-naphthyridine-6(5H)-carboxylate. LCMS: m/z 352.2 (M+H)+, 1.63 min (method 8). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.19 (s, 1H) 7.48-7.57 (m, 3H) 7.33 (d, J=7.02 Hz, 2H) 4.33 (s, 2H) 3.44 (t, J=5.65 Hz, 2H) 2.19 (t, J=5.80 Hz, 2H) 1.39 (s, 9H).

reactant | 2-Cyano-N-phenylacetamide | 820 mg | C(#N)CC(=O)NC1=CC=CC=C1 | C9H8N2O
reactant | LDA | 1.8M, 4.4 mL | [Li+].CC(C)[N-]C(C)C
reactant | (E)-tert-butyl-3-((dimethylamino)methylene)-4-oxopiperidine-1-carboxylate | 1 g | C(C)(C)(C)OC(=O)N1C\C(\C(CC1)=O)=C/N(C)C | C13H22N2O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-cyano-2-oxo-1-phenyl-1,2,7,8-tetrahydro-1,6-naphthyridine-6(5H)-carboxylate | C(#N)C=1C(N(C=2CCN(CC2C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C20H21N3O3
